US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-phenyl-phthalazine (Compound 5)
Operating as described in example 5 starting from 3,5-dichloro-4-methyl-pyridine (0.45 g, 2.81 mmoles) in dry DMF (10 ml), 60% NaH (67 mg, 2.81 mmoles) and 1-chloro-6-methoxy-4-phenyl-phthalazine (0.38 g, 1.4 mmoles), prepared as described in example 14, in DMF (10 ml), 0.26 g of the title compound were obtained (yield: 47.3%). m.p.: 206-208° C.

reactant | 3,5-dichloro-4-methyl-pyridine | 2.81 mmoles, 0.45 g | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | NaH | 2.81 mmoles, 67 mg | [H-].[Na+]
reactant | 1-chloro-6-methoxy-4-phenyl-phthalazine | 1.4 mmoles, 0.38 g | ClC1=NN=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1 | C15H11ClN2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-4-phenyl-phthalazine | 0.26 g, yield: 47.3% | ClC=1C=NC=C(C1CC1=NN=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)Cl | C21H15Cl2N3O
